datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9],153.427
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([H:25])([H:26])[H:27])[H:12],26.7358
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[C:22]([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[C:22]([H:23])([H:24])[H:25],0.0
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([O:1][O:2][O:7][H:8])([H:3])([H:4])[H:5].[H:6],250.967
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])[H:8])([H:5])([H:6])[H:7].[H:9][O:16][O:17],39.003248
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([S:14][H:21])([C:15](=[S:16])[H:22])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:20])[H:5].[C:12]([C:13]([S:14][H:21])[C:15](=[S:16])[H:22])([H:17])([H:18])[H:19],6.6944
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:33])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:31])[H:32])[H:33])([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:14])([H:12])[H:13],48.911
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]#[C:12][H:16])([C:15]([H:18])([H:19])[H:20])[H:17])[H:7])[H:6],29.539
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:5],74.8936
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][H:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][O:24][H:25],-4.41412
[C:0]([C:1]([O:2][O:3])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11],87.0272
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6]>>[C:0]1([H:2])([H:3])[C:1]([H:4])([H:5])[O:6]1,0.0
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([C:6]([H:17])([H:18])[H:19])[C:5]1([H:15])[H:16],37.9489
[H:0].[c:1]1([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12]>>[H:0][H:7].[c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],68.4084
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([O:10][O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:11][O:10][C:9]([H:12])([H:13])[H:14],44.0704904
[C:0][H:1].[H:2][H:3]>>[C:0]([H:1])[H:3].[H:2],13.89088
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14][O:15],192.715
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24])[H:8])([H:6])[H:7],31.5892
